US06531491B1
N-[3-(3-Styryl-1H-indazol-6-yloxy)-phenyl]-benzamide
To a stirred solution of 3-(3-styryl-4,5-dihydro-1H-indazol-6-yloxy)-phenylamine (50 mg, 0.15 mmol) and N,N-diisopropylethylamine (54 μl, 0.31 mmol) in 5 mL of CH2Cl2, was added benzoyl chloride (36 μl, 0.31 mmol). After 15 min, the reaction mixture was diluted with CH2Cl2 and washed sequentially with 0.5N HCl, saturated sodium bicarbonate solution and brine, dried (MgSO4) and concentrated under reduced pressure. To a stirred solution of the residue in 1,4-dioxane was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (35 mg, 0.15 mmol). After 1 h, the reaction mixture was concentrated under reduced pressure and the residue was chromatographed on silica gel eluting hexanes/EtOAc (2:1). In this manner, N-[3-(2-benzoyl-3-styrl-1H-indazol-6-yloxy)-phenyl]-benzamide was prepared as a rust colored solid (90 mg, ˜quantitative): 1H NMR (CDCl3) δ 8.13 (s, 1H), 8.02 (d, 2H, J=7.0 Hz), 7.94 (d, 1H, J=8.7 Hz), 7.74 (d, 2H, J=6.8 Hz), 7.57-7.19 (m, 17H), 6.84 (d, 1H, J=8.3 Hz).

reactant | 3-(3-styryl-4,5-dihydro-1H-indazol-6-yloxy)-phenylamine | 0.15 mmol, 50 mg | C(=CC1=CC=CC=C1)C1=NNC=2C=C(CCC12)OC=1C=C(C=CC1)N | C21H19N3O
reactant | N,N-diisopropylethylamine | 0.31 mmol, 54 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzoyl chloride | 0.31 mmol, 36 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.15 mmol, 35 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(3-Styryl-1H-indazol-6-yloxy)-phenyl]-benzamide | C(=CC1=CC=CC=C1)C1=NNC2=CC(=CC=C12)OC=1C=C(C=CC1)NC(C1=CC=CC=C1)=O | C28H21N3O2
